US06380218B1
4-(2,2,2-Trifluoro-ethoxy)-benzonitrile
To a solution 4-cyanophenol (5.0 grams, 42.0 mmole) in HMPT (40 ml) was added sodium hydride (1.68 grams, 42.0 mmole) and stirred for 15 minutes at room temperature. Via syringe 2,2,2-trifluoroethyl methane sulphonate (8.98 grams, 50.4 mmole) was added and the mixture was stirred at 140° C. over night. The mixture was cooled to room temperature, diluted with 300 ml ice water and 50 ml 2 N hydrochloric acid and extracted with diethyl ether. The combined extracts were washed with water, 1N sodium hydroxide and brine, dried over Na2SO4, filtered, and concentrated to an oil which was purified via flash chromatography on silica using 25% diethyl ether/hexane as eluent to give an oil (2.68 g). Synthesis 727 (1980).

reactant | 4-cyanophenol | 42.0 mmole, 5.0 grams | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | sodium hydride | 42.0 mmole, 1.68 grams | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl methane sulphonate | 50.4 mmole, 8.98 grams | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
solvent | HMPT | 40 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | hydrochloric acid | 2 N, 50 ml | Cl | ClH
product | 4-(2,2,2-Trifluoro-ethoxy)-benzonitrile | 2.68 g | FC(COC1=CC=C(C#N)C=C1)(F)F | C9H6F3NO
